US05532267
6-Amidino-2-naphthyl 5-(4-carboxymethylbenzoylaminomethyl)furan-2-carboxylate hydrochloride
To 3 g of 6-amidino-2-naphthyl 5-(4-methoxycarbonylmethylbenzoylaminomethyl)furan-2-carboxylate hydrochloride was added 60 ml of acetic acid, and hydrogen chloride gas was passed into the mixture until saturation while cooling with ice and stirring. Thereafter the mixture was stirred for 48 hours at 50° C. and then cooled with ice. The precipitate was collected by filtration and washed with 100 ml of acetone. The crystals were dissolved in 40 ml of DMF, then 1 g of active carbon was added to the solution and stirred for 1 hour while cooling with ice. Thereafter, the insolubles were removed by filtration, 90 ml of acetone was added to the filtrate and stirred for 18 hours at room temperature. The precipitate was collected by filtration and washed with 50 ml of acetone to obtain 1.3 g of the intended product.

reactant | 6-amidino-2-naphthyl 5-(4-methoxycarbonylmethylbenzoylaminomethyl)furan-2-carboxylate hydrochloride | 3 g | Cl.COC(=O)CC1=CC=C(C(=O)NCC2=CC=C(O2)C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 6-Amidino-2-naphthyl 5-(4-carboxymethylbenzoylaminomethyl)furan-2-carboxylate hydrochloride | 1.3 g | Cl.C(=O)(O)CC1=CC=C(C(=O)NCC2=CC=C(O2)C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1 | InChI=1S/C26H21N3O6.ClH/c27-24(28)19-6-5-18-13-20(8-7-17(18)12-19)35-26(33)22-10-9-21(34-22)14-29-25(32)16-3-1-15(2-4-16)11-23(30)31;/h1-10,12-13H,11,14H2,(H3,27,28)(H,29,32)(H,30,31);1H
